US05801271
Synthesis of t-butyl 7-(N-benzyloxycarbonylamino)-3-oxo-2-phenylheptanoate
The target compound was prepared as a colorless solid substance in an amount 5.94 g at a yield of 70.2% in the same manner as in Example 1 except that 5.0 g (19.9 mmol) of 5-(N-benzyloxycarbonylamino)pentanoic acid was dissolved in 50 ml of THF and 3.55 g (21.9 mmol) of CDI was added; 7.83 ml (59.7 mmol) of diisopropylamine and 30 ml of THF were added and 37 ml (59.7 mmol) of 1.63N BA solution was added dropwise; 11.5 g (59.7 mmol) of t-butyl phenylacetate instead of methyl phenylacetate was dissolved in 30 ml of THF; and 50 ml of saturated aqueous ammonium chloride solution was added to the reaction solution, the reaction was terminated, 40 g of 4N hydrochloric acid was added, and 140 ml of ethyl acetate was further added. The analytical results on the target compound are given below.

reactant | 5-(N-benzyloxycarbonylamino)pentanoic acid | 19.9 mmol, 5.0 g | C(C1=CC=CC=C1)OC(=O)NCCCCC(=O)O | C13H17NO4
reactant | CDI | 21.9 mmol, 3.55 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | diisopropylamine | 59.7 mmol, 7.83 ml | C(C)(C)NC(C)C | C6H15N
reactant | t-butyl phenylacetate | 59.7 mmol, 11.5 g | C1(=CC=CC=C1)CC(=O)OC(C)(C)C | C12H16O2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | t-butyl 7-(N-benzyloxycarbonylamino)-3-oxo-2-phenylheptanoate | yield of 70.2% | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(C(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C25H31NO5
